US04188397
A mixture of 4,4'-dibromobenzoin (25 g, 0.068 mol) and thiourea (10.3 g, 0.14 mol) in hexanol (200 ml) was refluxed with azeotropic distillation of water for three hours. The solution was then cooled and ethanol (300 ml) was added. The mixture was further cooled and the small needles which formed were collected and washed with cold ethanol then ether and dried. Recrystallization of the product from ethyl acetate gave 4,5-bis-(4-bromophenyl)-1H-imidazole-2-thione, m.p. 288°.

reactant | 4,4'-dibromobenzoin | 0.068 mol, 25 g | BrC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Br | C14H10Br2O2
reactant | thiourea | 0.14 mol, 10.3 g | NC(=S)N | CH4N2S
reactant | water | O | H2O
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | hexanol | 200 ml | C(CCCCC)O | C6H14O
product | 4,5-bis-(4-bromophenyl)-1H-imidazole-2-thione | BrC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)Br)=S | C15H10Br2N2S
